US05861414
(ix) 4-Vinyl-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4(2-bromo-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (81.5 g 0.279 mol) in dry tetrahydrofuran (1000 ml) under nitrogen at 20° was treated portionwise, over 30 min, with potassium tert-butoxide (63.2 g 0.563 mol). The mixture was stirred at 25° for 3 h and partitioned between saturated aqueous ammonium chloride (1000 ml) and diethyl ether (500 ml). The aqueous phase was extracted with diethyl ether (4×500 ml) and the combined, dried (MgSO4) extracts were evaporated in vacuo. The residue was purified by flash column chromatography on silica gel (Merck 9385) eluant cyclohexane: diethyl ether (19:1) to give the title compound as an orange oil (37.1 g, 0.176 mol, 63%).

reactant | 4(2-bromo-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.279 mol, 81.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCBr | C12H22BrNO2
reactant | potassium tert-butoxide | 0.563 mol, 63.2 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 4-Vinyl-piperidine-1-carboxylic acid tert-butyl ester | 0.176 mol, 37.1 g, 63% | C(C)(C)(C)OC(=O)N1CCC(CC1)C=C | C12H21NO2
